US05405851
A. 4-(4-nitrophenyl)-4-oxobutyric acid
A solution of ethyl 2-ethoxycarbonyl-4-(4-nitrophenyl)-4-oxobutyrate (6.2 g, 19 mmol) and sulphuric acid (1.0 g) in acetic acid:water (4:1, 50 ml) was stirred at reflux for 4 hours, then concentracted in vacuo to small volume. Dilution with water (100 ml) gave a precipitate which was filtered and dried at 50° C. under vacuum. Purification by chromatography on silica gel eluting with methanol:methylene chloride (3:97) and filtration of the resulting solid from diethyl ether containing a small percentage of methanol gave, after drying under high vacuum, 4-(4-nitrophenyl)-4-oxobutyric acid (2.1 g). 1H NMR (DMSO-d6, 300 MHz) δ: 2.62 (t, J=6 Hz, 2H, CH2), 3.33 (t, J=6 Hz, 2H, CH2), 8.22 (d, J=8.5 Hz, 2H, Ar), 8.36 (d, J=8.5 Hz, 2H, Ar), 12.22 (s. 1H, CO2H). Anal. Calculated for C10H9NO5 : C, 53.82; H, 4.06; N, 6.28. Found: C, 53.65; H, 4.02; N, 6.21.

reactant | ethyl 2-ethoxycarbonyl-4-(4-nitrophenyl)-4-oxobutyrate | 19 mmol, 6.2 g | C(C)OC(=O)C(C(=O)OCC)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H17NO7
reactant | sulphuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
solvent | acetic acid water | 50 ml | C(C)(=O)O.O
product | 4-(4-nitrophenyl)-4-oxobutyric acid | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9NO5
